US09315507B2
2-(4-(Adamantan-1-yl)phenoxy)-1-(4-(4-(trifluoromethyl)benzyl)piperazin-1-yl)ethanone (I-27)
The title compound was prepared from 2-(4-(adamantan-1-yl)phenoxy)acetic acid (0.3 g, 1.04 mmol) and 1-(4-(trifluoromethyl)benzyl)piperazine (0.255 g, 1.04 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)phenoxy)-1-(4-(4-(trifluoromethyl)benzyl)piperazin-1-yl) ethanone as a white solid (0.501 g, 93.3% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)acetic acid | 1.04 mmol, 0.3 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)O)C=C2 | C18H22O3
reactant | 1-(4-(trifluoromethyl)benzyl)piperazine | 1.04 mmol, 0.255 g | FC(C1=CC=C(CN2CCNCC2)C=C1)(F)F | C12H15F3N2
product | 2-(4-(adamantan-1-yl)phenoxy)-1-(4-(4-(trifluoromethyl)benzyl)piperazin-1-yl) ethanone | 0.501 g, 93.3% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CCN(CC3)CC3=CC=C(C=C3)C(F)(F)F)C=C2 | C30H35F3N2O2
